### PR TITLE
chore: symmetrize `Dicotic` API

### PR DESCRIPTION
**Pull request by vihdzp**
We broadly follow the strokes of the refactored `Numeric` API.

### CODE REVIEW

File: CombinatorialGames/Game/Small.lean [hunk 1]
```diff
@@ -24,20 +24,23 @@ namespace IGame
...
 
 theorem dicotic_def {x : IGame} : Dicotic x ↔
+    (x.leftMoves = ∅ ↔ x.rightMoves = ∅) ∧ (∀ p, ∀ l ∈ x.moves p, Dicotic l) := by
+  simp_rw [dicotic_iff_aux]; rw [DicoticAux]
+
+theorem dicotic_def' {x : IGame} : Dicotic x ↔
     (x.leftMoves = ∅ ↔ x.rightMoves = ∅) ∧
       (∀ l ∈ x.leftMoves, Dicotic l) ∧ (∀ r ∈ x.rightMoves, Dicotic r) := by
-  simp_rw [dicotic_iff_aux]; rw [DicoticAux]
+  rw [dicotic_def]; aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Small.lean]: (this is [used in the aux short games definition as well](https://github.com/vihdzp/combinatorial-games/blob/5b244e279beba32132fcf6500415e9570b1367c4/CombinatorialGames/Game/Short.lean#L41))

```suggestion
  rw [dicotic_def, Player.forall]
```

Comment (vihdzp) [reply CombinatorialGames/Game/Small.lean]: You can go ahead and fix it there too!
